US04035178
A solution of 46.7 g of 2,3-dimethyl-3-buten-2-ol in 602 ml of chloroform was cooled to 0°-5° in a dry ice-acetone bath. To this was added dropwise, during 4 hours, a solution of 96.5 g of m-chloroperoxybenzoic acid (113.5 g of 85%) in 966 ml of chloroform. The reaction mixture temperature was maintained at 0°-5° throughout the addition. Upon complete addition, the reaction mixture was allowed to warm to ambient temperature where it was stirred for 18 hours. To the reaction mixture was slowly added a solution of 11.8 g of sodium sulfite in a minimum amount of water. The reaction mixture was tested for peroxides using wet acidic sodium iodide-starch paper; there were no peroxides present. Concentration of the reaction mixture to below one-half the original volume resulted in precipitation of benzoic acid from the reaction mixture. The benzoic acid was removed by filtration. The concentration, precipitation, and filtration was repeated several time until at the last concentration only a small amount of precipitated benzoic acid was collected. There remained 16.6 g of residual yellow liquid, from which on standing a white solid crystallized. The liquid portion was decanted off and the solid was washed with diethyl ether. The ether wash was added to the liquid portion. The white solid had a melting point of 116°-118° and decomposed explosively at 170°-180°. The liquid portion was distilled using a Vigreux column, to give 9.32 g of 2-[(1-hydroxy-1- methyl)ethyl]-2-methyloxirane bp 35°-65°/15-20 mm. The nmr spectrum was consistent with the assigned structure.

reactant | 2,3-dimethyl-3-buten-2-ol | 46.7 g | CC(C)(C(=C)C)O | C6H12O
reactant | m-chloroperoxybenzoic acid | 96.5 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | sodium sulfite | 11.8 g | S(=O)([O-])[O-].[Na+].[Na+]
reactant | water | O | H2O
solvent | chloroform | 602 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 966 ml | C(Cl)(Cl)Cl | CHCl3
product | benzoic acid | C(C1=CC=CC=C1)(=O)O | C7H6O2
